US08383660B2
2-Bromo-5-(trifluoromethyl)benzoic acid
To a solution of n-BuLi (26.7 mL of 2.5M solution in tetrahydrofuran (THF), 66.7 mmol) in THF (130 mL) at −78° C. was added 2,2,6,6-tetramethylpiperidine (22.5 mL, 133.4 mmol). The mixture was stirred at −78° C. for 30 minutes and then carefully lowered to −100° C. using liquid nitrogen. Neat 1-bromo-4-(trifluoromethyl)benzene (15 g, 66.7 mmol) was added. The mixture was kept at −100° C. for 6 hours and poured onto freshly crushed dry ice. The resulting mixture was stirred at room temperature for 16 hours. The residue solvent was removed by evaporation. Water (150 mL) was added and the mixture was extracted with diethyl ether (3×50 mL). The aqueous layer was acidified using concentrated hydrochloric acid (HCl), extracted with methylene chloride (3×50 mL). The combined organic layers were washed with saturated sodium chloride (NaCl) (75 ml), dried with magnesium sulfate (MgSO4), filtered and concentrated to yield the title compound as a white solid (5.41 g). 1H NMR (400 MHz, CDCl3) δ 7.7 (dd, J=8.4, 2.3 Hz, 1 H) 7.9 (d, J=8.4 Hz, 1 H) 8.3 (d, J=2.0 Hz, 1 H). MS (ES+) Calc: 267.93, Found: 266.7 (M−1).

reactant | n-BuLi | 66.7 mmol, 2.5M, 26.7 mL | [Li]CCCC
reactant | 2,2,6,6-tetramethylpiperidine | 133.4 mmol, 22.5 mL | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | 1-bromo-4-(trifluoromethyl)benzene | 66.7 mmol, 15 g | BrC1=CC=C(C=C1)C(F)(F)F | C7H4BrF3
reactant | dry ice | C(=O)=O | CO2
solvent | THF | 130 mL | O1CCCC1 | C4H8O
product | 2-Bromo-5-(trifluoromethyl)benzoic acid | 5.41 g | BrC1=C(C(=O)O)C=C(C=C1)C(F)(F)F | C8H4BrF3O2
